US07384934B2
(S)-6,7-Difluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride
Dissolve (S)-6,7-difluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (730 mg, 1.86 mmol) in ethyl acetate. Add 2.5 equivalents of hydrogen chloride in ethanol. After 3 hours filter the precipitate, wash with ethyl acetate and dry under vacuum to give the title compound (856 mg, 99%): Mass Spectrum (ESMS) 393 (M+1); 391 (M−1), mp 198-202° C. (dec).

reactant | (S)-6,7-difluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 1.86 mmol, 730 mg | FC=1C(=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](NCC2)CCOC)C)C1)F | C19H22F2N4OS
reactant | hydrogen chloride | 2.5 equivalents | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | (S)-6,7-Difluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride | 856 mg, 99% | Cl.Cl.FC=1C(=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](NCC2)CCOC)C)C1)F | InChI=1S/C19H22F2N4OS.2ClH/c1-11-7-13-18(25-5-4-22-12(10-25)3-6-26-2)23-16-8-14(20)15(21)9-17(16)24-19(13)27-11;;/h7-9,12,22,24H,3-6,10H2,1-2H3;2*1H/t12-;;/m0../s1
